US06797823B1
4-Chloro-6-methoxy-7-quinolinol
7-(Benzyloxy)-4-chloro-6-methoxyquinoline (100 mg), thioanisole (300 μl), and methanesulfonic acid (25 μl) were dissolved in trifluoromethanesulfonic acid (1 ml). The solution was stirred at room temperature for 30 min. The solvent was removed by distillation under the reduced pressure. The residue was made neutral by the addition of an aqueous sodium hydroxide solution, and hexane was added thereto to prepare a suspension. The crystal was collected by suction filtration to give 53 mg (yield 75%) of the title compound.

reactant | 7-(Benzyloxy)-4-chloro-6-methoxyquinoline | 100 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | thioanisole | 300 μl | C1(=CC=CC=C1)SC | C7H8S
reactant | methanesulfonic acid | 25 μl | CS(=O)(=O)O | CH4O3S
solvent | trifluoromethanesulfonic acid | 1 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 4-Chloro-6-methoxy-7-quinolinol | 53 mg, yield 75% | ClC1=CC=NC2=CC(=C(C=C12)OC)O | C10H8ClNO2
